ne555
*SPICE Netlist generated by Advanced Sim server on 14/12/2024 22:43:02
.options MixedSimGenerated

*Schematic Netlist:
X1M Net1M_1 Net1M_2 Net1M_1 POT PARAMS: position=0.5 value=1k
CC1 0 Net1M_2 4.7ùF
CC2 0 NetC2_2 10nF
DD1 NetD1_1 0 diode
RR1 NetR1_1 NetR1_2 10K TC1=0 TC2=0
RR2 Net1M_1 NetR1_1 47K TC1=0 TC2=0
RR4 NetD1_1 NetR4_2 330 TC1=0 TC2=0
XU1 0 Net1M_2 NetR4_2 NetR1_2 NetC2_2 Net1M_2 NetR1_1 NetR1_2 555
VV1 NetV1_1 NetR1_2 9 AC 1 0

.PROBE {V(NetD1_1)} =PLOT(1) =AXIS(1) =UNITS(V)

*Selected Circuit Analyses:
.DC V1 0 9.000 900.0m
.CONTROL
MEASSENS R1 DEV=1m
MEASSENS RUN
.ENDC

*Models and Subcircuits:
*-------------------------------------------------------------------------------------------------------------------------
* potentiometer position must be between 0 and 1
.SUBCKT POT in out pos params: value=1k  position=0.5
r1 in pos {value*position}
r2 pos out {value*(1.0-position)}
.ENDS

.MODEL diode D ()

*555
*Nodes:       GND TRIG OUT RESET CVOLT THOLD DISCHG VCC
.SUBCKT 555    1   2    3    4     5     6     7     8
EREF 15 1 8 1 .5
GSOURCE 8 3 8 26 12.5E-3
GSINK 3 1 26 1 67E-3
VD1 8 27 DC .8
VD2 28 1 DC .85
VREF 30 1 DC 1.2
C1 29 1 700E-15
RREF2 30 1 100E3
RREF 15 1 100E3
ROUT 3 1 100K
R1 6 1 500E9
R2 2 1 500E9
R3 8 5 75E3
R4 5 9 75E3
R5 9 1 75E3
R6 10 11 1E3
R7 13 14 1E3
R8 8 12 150E3
R9 4 8 500E9
R10 20 19 1E3
R11 16 17 1E3
R12 8 18 150E3
R13 8 21 150E3
R14 22 23 1E3
R15 8 26 150E3
R16 24 25 1E3
R19 7 1 500E9
R20 29 26 1E6
D1 1 11 DMOD
D2 12 11 DMOD
D3 12 14 DMOD
D4 1 14 DMOD
D5 18 17 DMOD
D6 1 17 DMOD
D7 18 19 DMOD
D8 1 19 DMOD
D9 21 14 DMOD
D10 21 25 DMOD
D11 1 23 DMOD
D12 18 23 DMOD
D13 26 25 DMOD
D14 1 25 DMOD1
D15 3 27 DMOD
D16 28 3 DMOD
E1 10 1 6 5 1000
E2 13 1 2 9 1000
E3 16 1 15 12 1000
E4 22 1 15 21 1000
E5 24 1 15 18 1000
E7 20 1 4 30 1000
M1 7 29 1 1 MOSMOD
.MODEL MOSMOD NMOS (LEVEL=1 KP=1 VTO=1 RD=5)
.MODEL DMOD D (RS=1E-6)
.MODEL DMOD1 D (RS=1E-6 IS=1E-9)
.ENDS 555

.END